US04740519
A mixture of 2-methyl-1-undecene (35.6 g, 211 mmoles), parabromphenol (36.6 g, 211 mmoles) and Dowex 50×12 resin (100-200 mesh) previously washed with water, rinsed with acetone and oven dried for 3 hours at 80° C., is heated at 100°-110° C. for 48 hours. The mixture is then cooled to ambient temperature and chromatographed on a silica column (eluant: a mixture of dichloromethane, 40% and hexane, 60%), yielding 4-bromo-2-(1,1-dimethyldecyl)-phenol in the form of a pale yellow oil. (30.85 g, 43%).

reactant | 2-methyl-1-undecene | 211 mmoles, 35.6 g | CC(=C)CCCCCCCCC | C12H24
reactant | parabromphenol | 211 mmoles, 36.6 g | BrC1=CC=C(C=C1)O | C6H5BrO
product | 4-bromo-2-(1,1-dimethyldecyl)-phenol | BrC1=CC(=C(C=C1)O)C(CCCCCCCCC)(C)C | C18H29BrO
